US06204294B1
a) 5-Cyano-1-methoxymethyloxy-2-nitrobenzene
To sodium hydride (60% oil dispersion, 260 mg, 6.5 mmol), previously washed with hexanes, in THF (5 ml) was added dropwise at rt 5-cyano-2-nitro-phenol (978 mg, 5.96 mmol) in THF (10 ml). The solution turned bright orange and a large prepipitate formed. After stirring 15 min at rt bromomethylmethylether was added dropwise to this stirred slurry and the reaction was stirred for 18 h at rt. The yellow-colored mixture was then partitioned between t-butyl-O-methylether and water and the aqueous portion was extracted (×3) and washed with 5% sodium bicarbonate solution (×4) and brine. After drying (MgSO4), filtration and evaporation under reduced pressure afforded the title compound as a pale yellow solid (1.05 g, 85%).1H NMR(400 MHz, CDCl3) δ 7.84 (d, J=8.4 Hz, 1H), 7.66 (d, J=1.4 Hz 1H), 7.35 (dd, J=8.4 Hz J=1.5 Hz, 1H), 5.34 (s, 2H), 3.55 (s, 3H).

reactant | sodium hydride | 6.5 mmol, 260 mg | [H-].[Na+]
reactant | 5-cyano-2-nitro-phenol | 5.96 mmol, 978 mg | C(#N)C=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H4N2O3
reactant | bromomethylmethylether | BrCOC | C2H5BrO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-Cyano-1-methoxymethyloxy-2-nitrobenzene | 1.05 g, 85% | C(#N)C=1C=CC(=C(C1)OCOC)[N+](=O)[O-] | C9H8N2O4
